US05358843
tert-Butyldimethylsiloxy-N,N-dibenzylamine, Compound 1, was heated with sodium tetrafluoroborate at about 200° C. for 30 minutes. The tert-butyldimethylfluorosilane could be distilled off at 62°-64° C. in 82% yield. N,N-dibenzylhydroxylamine was isolated from the reaction. Similar results were obtained using sodium salts of hexafluorophosphate and hexafluoroantimonate.

reactant | tert-Butyldimethylsiloxy-N,N-dibenzylamine | O([Si](C)(C)C(C)(C)C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H29NOSi
reactant | sodium tetrafluoroborate | F[B-](F)(F)F.[Na+]
product | N,N-dibenzylhydroxylamine | 82% yield | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
